US08735385B2
Trifluoro-methanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxy)-cyclohex-1-enyl ester
LDA (0.8 M, 32 mL, 25.47 mmol, 1 equiv.) was cooled to −78° C. To this was added a solution of 4-(tert-butyl-dimethyl-silanyloxy)-cyclohexanone (5.82 g, 25.47 mmol, 1 equiv.) in THF (30 mL). The solution was stirred at −78° C. for 30 min. To this enolate was transferred a solution of Pyr-NTf2 (CAS 145100-51-2; 10 g, 25.47 mmol, 1 equiv.) in THF (60 mL) and kept stirring at −78° C. for 2 h. The reaction was diluted with EtOAc (50 mL) and NH4Cl aq. (50 mL). The two layers were separated, and the aqueous layer was extracted with EtOAc (2×20 mL). The combined EtOAc extracts were washed with sodium bicarbonate (20 mL), brine (20 mL), dried (anhydrous potassium carbonate), filtered, and concentrated in vacuo to afford a liquid product. This was purified on a 120 g silica gel column eluted with 10% EtOAc in heptane to obtain 9 g (98% yield) of the title compound as a colorless liquid.

reactant | LDA | 25.47 mmol, 0.8 M, 32 mL, 1 equiv. | [Li+].CC(C)[N-]C(C)C
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-cyclohexanone | 25.47 mmol, 5.82 g, 1 equiv. | C(C)(C)(C)[Si](OC1CCC(CC1)=O)(C)C | C12H24O2Si
reactant | Pyr-NTf2 | 25.47 mmol, 10 g, 1 equiv. | N1[C@@H](CCC1=O)C(=O)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H6F6N2O6S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
product | Trifluoro-methanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxy)-cyclohex-1-enyl ester | 9 g, 98% yield | C(C)(C)(C)[Si](OC1CC=C(CC1)OS(=O)(=O)C(F)(F)F)(C)C | C13H23F3O4SSi
